US05925656
2-[N-Methyl-N-(2-pyridylmethyl)amino]ethanol
The title compound was prepared from 2-picolyl chloride (3 g) and 2-(methylamino)ethanol (19 ml) by an analogous procedure to that described in preparation 1.

reactant | 2-picolyl chloride | 3 g | N1=C(C=CC=C1)CCl | C6H6ClN
reactant | 2-(methylamino)ethanol | 19 ml | CNCCO | C3H9NO
product | 2-[N-Methyl-N-(2-pyridylmethyl)amino]ethanol | CN(CC1=NC=CC=C1)CCO | C9H14N2O
